US09126993B2
1-azabicyclo[2.2.2]oct-3-yl[1-(4′-methoxybiphenyl-4-yl)cyclopropyl]carbamate
Using general procedure E, quinuclidin-3-yl 1-(4-bromophenyl)cyclopropylcarbamate (0.485 g, 1.33 mmol), 4-methoxyphenyl boronic acid (0.404 g, 2.66 mmol) and Pd(OAc)2 (0.016 g, 0.071 mmol) gave the title compound as a grey solid (0.337 mg, 65%). 1H NMR (CDCl3) δ 7.48 (dd, J=8.6, 5.5 Hz, 4H), 7.29 (d, J=7.6 Hz, 2H), 6.96 (d, J=8.8 Hz, 2H), 5.58 (d, J=48.7 Hz, 1H), 4.83-4.63 (m, 1H), 3.84 (s, 3H), 3.20 (dd, J=24.0, 15.5 Hz, 1H), 2.97-2.42 (m, 5H), 1.97 (d, J=30.9 Hz, 1H), 1.81 (s, 1H), 1.75-1.33 (m, 3H), 1.28 (d, J=6.8 Hz, 4H) ppm. 13C NMR major rotomer (CDCl3) δ 159.1, 156.0, 141.4, 139.0, 133.4, 128.0, 126.7, 125.9, 114.2, 71.5, 55.7, 55.3, 47.4, 46.5, 35.3, 25.5, 24.6, 19.6, 17.8 ppm. Purity: LCMS>97.1% (214 nm & 254 nm); retention time 0.88 min; (M+1) 393.4.

reactant | quinuclidin-3-yl 1-(4-bromophenyl)cyclopropylcarbamate | 1.33 mmol, 0.485 g | BrC1=CC=C(C=C1)C1(CC1)NC(OC1CN2CCC1CC2)=O | C17H21BrN2O2
reactant | 4-methoxyphenyl boronic acid | 2.66 mmol, 0.404 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
catalyst | Pd(OAc)2 | 0.071 mmol, 0.016 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1-azabicyclo[2.2.2]oct-3-yl[1-(4′-methoxybiphenyl-4-yl)cyclopropyl]carbamate | 0.337 mg, 65% | N12CC(C(CC1)CC2)OC(NC2(CC2)C2=CC=C(C=C2)C2=CC=C(C=C2)OC)=O | C24H28N2O3
